US06277877B1
5-Cyano-1H-indole-2-carboxylic acid ((1S)-benzyl-2-oxo-2-thiazolidin-3-yl-ethyl)-amide
(S)-2-Amino-3-phenyl-1-thiazolidin-3-yl-propan-1-one hydrochloride (4.0 mmol) and 5-cyano-1H-indole-2-carboxylic acid (4.0 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 48 hours reaction time) with the following workup: the reaction mixture was diluted with ethyl acetate and 2 N HCl, the resulting precipitate collected by filtration, washed with 2 N HCl and 2 N NaOH. The crude product was purified by chromatography on silica gel eluted with 30, 40 and 60% ethyl acetate in hexanes. Yield 1.22 g, 75%; HPLC (60/40) 4.74 minutes (97%); PBMS 405 (MH+, 100%);

reactant | (S)-2-Amino-3-phenyl-1-thiazolidin-3-yl-propan-1-one hydrochloride | 4.0 mmol | Cl.N[C@H](C(=O)N1CSCC1)CC1=CC=CC=C1
reactant | 5-cyano-1H-indole-2-carboxylic acid | 4.0 mmol | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)O | C10H6N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2 N | Cl | ClH
product | 5-Cyano-1H-indole-2-carboxylic acid ((1S)-benzyl-2-oxo-2-thiazolidin-3-yl-ethyl)-amide | C(C1=CC=CC=C1)[C@@H](C(N1CSCC1)=O)NC(=O)C=1NC2=CC=C(C=C2C1)C#N | C22H20N4O2S
